* gnetlist -g spice-sdb -o simple.net absolute-simplest.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 2n3904.model vvvvvvvv
.model Q2N3904	NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+		Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+		Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*^^^^^^^^  End of included SPICE model from 2n3904.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Vdd Vdd 0 DC 18
R1 1 Vdd 15k  
Q1 unconnected_pin-1 2 1 Q2N3904 
Q2 1 2 0 Q2N3904
.end
